US04515626
Production of 2-amino-4-cyclopropyl-6-methoxy-1,3,5-triazine (intermediate)
Gaseous ammonia is blown through a solution of 5 g of 2-cyclopropyl-4,6-dimethoxy-1,3,5-triazine in 30 ml of methanol at room temperature until saturation is reached. The solution is then stirred in a bomb tube (autoclave) at 140° C. for 1 hour; it is subsequently cooled, and the reaction mixture is filtered to thus obtain 0.5 g of the title product as light-brown crystals, m.p. 156°-157° C.

reactant | ammonia | N | H3N
reactant | 2-cyclopropyl-4,6-dimethoxy-1,3,5-triazine | 5 g | C1(CC1)C1=NC(=NC(=N1)OC)OC | C8H11N3O2
solvent | methanol | 30 ml | CO | CH4O
product | 2-amino-4-cyclopropyl-6-methoxy-1,3,5-triazine | NC1=NC(=NC(=N1)C1CC1)OC | C7H10N4O
